US06441017B1
Step D: (S)-N-{1-[7-(tert-Butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxopyrrolidin-3-yl}-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]acetamide
A mixture of (S)-N-[1-(7-hydroxynaphthalen-1-yl)-2-oxopyrrolidin-3-yl]-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]acetamide, as described above in Step C, (6.50 g, 11.0 mmol), tert-butyldiphenylsilyl chloride (4.55 g, 16.6 mol), and imidazole (1.87 g, 27.5 mol) in dry, degassed DMF (100 mL) was stirred, under argon, at 50° C. for 18 hours. The solvent was removed under reduced pressure and the residue was partitioned between saturated aqueous NaHCO3 (75 mL) and CH2Cl2 (125 mL). The aqueous layer was extracted further with CH2Cl2 (125 mL) and the combined organic extracts were dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with CH2Cl2—1% MeOH—0.1% NH4OH to yield the desired product as a pale solid.

reactant | (S)-N-[1-(7-hydroxynaphthalen-1-yl)-2-oxopyrrolidin-3-yl]-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]acetamide | OC1=CC=C2C=CC=C(C2=C1)N1C([C@H](CC1)NC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C38H32N4O3
reactant | tert-butyldiphenylsilyl chloride | 11.0 mmol, 6.50 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 27.5 mol, 1.87 g | N1C=NC=C1 | C3H4N2
product | (S)-N-{1-[7-(tert-Butyldiphenylsilyloxy)naphthalen-1-yl]-2-oxopyrrolidin-3-yl}-2-[1-(triphenylmethyl)-1H-imidazol-4-yl]acetamide | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C2C=CC=C(C2=C1)N1C([C@H](CC1)NC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C54H50N4O3Si
